US06794382B2
1.4.1. 2-Hydroxy-4-methylbenzimidazole
2,3-Diaminotoluene (5 g, 41 mmol), 1,1-carbonyldiimidazole (7.3 g, 45 mmol) and 50 mL of anhydrous DMF are successively introduced into a 250 mL two-necked flask under an argon atmosphere, with magnetic stirring. After heating the mixture at 90-95° C. for 4 h, the solvent is distilled off under vacuum and the residue obtained is taken up in water (250 mL) and extracted with ethyl acetate (3×250 mL). The insoluble product formed during the extraction is recovered (4.8 g) and the combined organic phases are washed again with saturated NaCl solution, dried over MgSO4, filtered and concentrated to give a further 1.2 g of desired product (6 g, quantitative). 1H NMR (300 MHz, δ ppm) DMSO D6: 2.27 (s, 3H), 6.72 (m, 2H), 6.82 (m, 1H).

reactant | 2,3-Diaminotoluene | 41 mmol, 5 g | NC1=C(C=CC=C1N)C | C7H10N2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 250 mL | O | H2O
product | 2-Hydroxy-4-methylbenzimidazole | 1.2 g | OC=1NC2=C(N1)C=CC=C2C | C8H8N2O
